US08426449B2
Step 2: (3-{4-Amino-2-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 4, using the following starting materials: (3-{2-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester, 1,1-dimethylhydrazine, ferric chloride, and DARCO.

reactant | (3-{2-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CN(CC)C(=O)C1CC1)=O | C24H28N2O7
reactant | 1,1-dimethylhydrazine | CN(N)C | C2H8N2
reactant | DARCO | C | CH4
product | (3-{4-Amino-2-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN(CC)C(=O)C1CC1)=O | C24H30N2O5
